US08278290B2
(i) 2,4-Dimethoxy-3-fluoro-nitrobenzene
A freshly prepared solution of sodium methoxide [0.58 g (25 mmol) of sodium dissolved in 3 mL of anhydrous methanol] was added dropwise to a solution of 2 g (11.2 mmol) of 1,2,3-trifluoro-4-nitrobenzene in 30 mL of anhydrous methanol under nitrogen at +4° C. The resulting mixture was stirred overnight at room temperature and quenched with 1 M aqueous citric acid (0.1 eq) and methanol was evaporated under reduced pressure. The residue was taken up with ether, washed with 1 M citric acid, brine and dried over anhydrous magnesium sulfate and filtered off. The filtrate was evaporated under reduced pressure to give 2.2 g (99% yield) of the crude product, which was purified by crystallisation from hexane. H1 NMR (CDCl3) 3.95 (s, 3H, OMe); 4.06 (d, 3H, J=1.6 Hz); 6.72 (dd, 1H, CH, J=9.4 Hz, J=7.5 Hz) 7.72 (dd, 1H, CH, J=9.4 Hz, J=2.23 Hz).

reactant | sodium methoxide | 25 mmol, 3 mL, 0.58 g | C[O-].[Na+]
reactant | sodium | 25 mmol | [Na] | Na
reactant | 1,2,3-trifluoro-4-nitrobenzene | 11.2 mmol, 2 g | FC1=C(C(=C(C=C1)[N+](=O)[O-])F)F | C6H2F3NO2
reactant | citric acid | 1 M, 0.1 eq | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 30 mL | CO | CH4O
product | 2,4-Dimethoxy-3-fluoro-nitrobenzene | 2.2 g, 99% yield | COC1=C(C=CC(=C1F)OC)[N+](=O)[O-] | C8H8FNO4
